US07098226B2
A solution of diisopropylamine (10.0 ml, 71.5 mmol) in tetrahydrofuran (150 ml) was cooled to −78° C. under a nitrogen atmosphere, and a 1.6 N solution of butyllithium in hexane was added dropwise thereto over 10 minutes. The mixture was cooled with ice-cold water for 20 minutes and then cooled to −78° C. again, and isobutyronitrile (3.03 ml, 33.3 mmol) was added dropwise to the mixture over five minutes. Further, 4-pyridinecarboxyaldehyde (3.18 ml, 33.3 mmol) was added dropwise thereto over five minutes, and the whole was stirred for one hour 20 minutes. Water (100 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (200 ml) by using a continuous extracting apparatus for three days. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was filtered off with diethyl ether to give 4.20 g (71.6%) of 3-hydroxy-2,2-dimethyl-3-(4-pyridyl)propionitrile as a colorless solid.

reactant | diisopropylamine | 71.5 mmol, 10.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | isobutyronitrile | 33.3 mmol, 3.03 ml | C(C(C)C)#N | C4H7N
reactant | Water | 100 ml | O | H2O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-hydroxy-2,2-dimethyl-3-(4-pyridyl)propionitrile | 4.20 g, 71.6% | OC(C(C#N)(C)C)C1=CC=NC=C1 | C10H12N2O
